US06727264B1
2-METHYL-N-[3-(1-{(3S)-3-PHENYL-3-[(2-TOLUIDINOCARBOTHIOYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure P and Scheme AB using 1-isothiocyanato-2-methylbenzene and N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 529.1 (M+H)+.

reactant | 1-isothiocyanato-2-methylbenzene | N(=C=S)C1=C(C=CC=C1)C | C8H7NS
reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
product | 2-METHYL-N-[3-(1-{(3S)-3-PHENYL-3-[(2-TOLUIDINOCARBOTHIOYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC[C@H](NC(=S)NC=1C(=CC=CC1)C)C1=CC=CC=C1)C | C32H40N4OS
